US07723369B2
{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester (1.8 g, 3.3 mmol) was coupled with 4-n-pentylbenzene boronic acid (769 m g, 4.0 mmol) according to general procedure G to give {4-[4-(2,4-dichloro-phenyl)-2-(4′-pentyl-biphenyl-4-ylmethyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester.

reactant | {4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | 3.3 mmol, 1.8 g | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)Br)=O | C25H20BrCl2N3O2
reactant | 4-n-pentylbenzene boronic acid | 4.0 mmol | C(CCCC)C1=CC=C(C=C1)B(O)O | C11H17BO2
product | {4-[4-(2,4-dichloro-phenyl)-2-(4′-pentyl-biphenyl-4-ylmethyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC)=O | C36H35Cl2N3O2
